Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ woman with a past medical history 
significant for R carotid stenosis, stage III CKD, atrial 
fibrillation (not on AC), alcoholic cirrhosis, DM, HTN, HLD, 
Stroke ( with left side hemiparesis)who presents on day after 
discharge from the hospital for the evaluation of altered mental
status.

The patient was hospitalized from ___ to ___ for altered mental 
status that was thought to be due to toxic encephalopathy ___ 
opioid use prior to admission. She had an extensive work up done 
at that time which was negative for infectious cause and had 
imaging done which was negative for an acute process. Her 
sister, who is at bedside, reports that shortly after returning 
to her rehab, the patient made a phone call to a friend in which 
she said she was at a bar and it was ___. Her sister was 
concerned that the patient was confused and altered and had the 
patient brought back to the ___ ED. 

On evaluation in the ED, the patient reported that she felt fine 
and that nothing was wrong. She was alert and oriented x2, but 
was making some statements which did not make sense. She was 
found. Her labs were notable a mild ___. A repeat CT head was 
obtained which showed no acute changes from prior CT scans.

Upon arrival to the floor, the patient endorses the above 
history. She denies chest pain, shortness of breath, 
palpitations, or pain. She is talking in full sentences and A&O 
x2.   
 
Past Medical History:
- Right carotid stenosis status post CEA
- Stage III CKD
- Atrial fibrillation
- Alcoholic cirrhosis
- Type II DM
- HTN
- HLD
- Stroke (left side hemiparesis)

Past Surgical History: 
- Left carotid surgery (___) 
- Throat surgery (___)
- Right knee replacement (___)
- Broken left wrist  

 
Social History:
___
Family History:
Mother and brother with heart disease
 
Physical Exam:
===============================
ADMISSION PHYSICAL EXAMINATION:
===============================

VS: ___ 1111 Temp: 98.4 PO BP: 164/78 R Lying HR: 70 RR: 18
O2 sat: 99% O2 delivery: Ra 

GENERAL: Patient resting comfortably in bed in no acute 
distress.

HEENT: Moist, mucous membranes. No scleral icterus. 
CARDIAC: RRR, systolic ejection murmur, no rubs/gallops
LUNG: CTAB, No crackles, wheezes, or rhonchi.
ABD: Soft, non-tender, non-distended. +Bowel Sounds. No ascites. 

EXT: Warm, well perfused. No lower extremity edema. 
NEURO: Oriented to person and place but not time or date. No
asterixis. Left sided hemiparesis. 

===============================
DISHCARGE PHYSICAL EXAMINATION:
===============================
GENERAL: lying in bed, NAD
HEENT: anicteric sclera, dry MM
CV: RRR, ___ systolic ejection murmur
RESP: rhoncorous upper airway sounds, otherwise CTAB
___: soft, NTND, +BS
EXTREMITIES: wwp with no edema, moderate bruising without
hematoma of RUE, no bleeding
NEURO: AOx2, ___ strength with right hand grip and right foot
movement, unchanged left sided hemiparesis, otherwise grossly
intact 

 
Pertinent Results:
===============
ADMISSION LABS:
===============

___ 05:05AM 
WBC-7.4 (9.2% eosinophils) RBC-3.00* Hgb-9.6* Hct-28.2* MCV-94 
MCH-32.0 MCHC-34.0 RDW-15.0 RDWSD-51.7* Plt ___
Glucose-106* UreaN-24* Creat-1.5* Na-140 K-4.0 Cl-103 HCO3-21* 
AnGap-16
ALT-11 AST-23 AlkPhos-164* TotBili-1.3
Albumin-4.1

___ URINE CULTURE - no growth

=====================
OTHER PERTINENT LABS:
=====================

___ 06:32AM BLOOD 
TSH-8.0*
PTH 37, 25VitD 28*

=================
RADIOLOGY/REPORTS:
=================

___ CT HEAD WITHOUT CONTRAST
No acute intracranial process or hemorrhage. Unchanged right 
parietoccipital encephalomalacia and bilateral chronic small 
vessel ischemic changes. Unchanged encephalomalacia identified 
in the left occipital lobe. 

___ CT ABDOMEN/PELVIS WITHOUT CONTRAST
No acute process within the abdomen or pelvis. Cirrhotic liver.  
Hypodensity in the right lobe of the liver is likely fibrosis, 
but out-patient liver MRI is recommended for further evaluation. 
Cholelithiasis without cholecystitis. Sigmoid diverticulosis 
without diverticulitis. 
Extensive atherosclerotic disease. 

___ CT HEAD WITHOUT CONTRAST
No acute intracranial abnormalities. Unchanged appearance of 
encephalomalacia is as described above. 

___ EEG
This telemetry captured no pushbutton activations. It showed a 
disorganized and slow background throughout, signifying a 
widespread 
encephalopathy affecting cortical and subcortical structures. 
The recording cannot specify the etiology, but infection, 
metabolic disturbances, and medications are among the most 
common causes. There was also additional prominent focal slowing 
broadly over the right hemisphere, indicating persistent focal 
subcortical dysfunction there, possibly structural. There were 
also infrequent but occasionally periodic spike discharges in 
the right occipital area, suggesting an area of potential 
epileptogenesis, but no discharges were rapid or prolonged 
enough to constitute electrographic seizures. 

___ EEG
This telemetry captured no pushbutton activations. It showed a 
slow and disorganized background throughout, with frequent 
bursts of 
generalized slowing or background voltage suppression for a few 
seconds. These findings indicate a moderately severe 
encephalopathy affecting both cortical and subcortical 
structures. Medications, metabolic disturbances, and infection 
abnormal most common causes. Additionally, there was more 
prominent focal delta slowing in the right hemisphere and more 
background suppression there, as well. These findings suggest an 
additional cortical and subcortical dysfunction in the right 
hemisphere, possibly structural. There were also frequent sharp 
waves, occasionally periodic, in the same area indicating an 
area of cortical hypersynchrony and potential epileptogenesis, 
but the sharp waves were not so frequent or rhythmic as to 
suggest ongoing seizures at the time. 

___ Chest radiograph
IMPRESSION:  
New right basilar opacity, possible pneumonia. 

================
DISHCHARGE LABS:
================
___ 09:30AM BLOOD WBC-5.2 RBC-2.40* Hgb-7.8* Hct-24.2* 
MCV-101* MCH-32.5* MCHC-32.2 RDW-17.1* RDWSD-62.9* Plt ___
___ 06:55AM BLOOD Neuts-61.5 ___ Monos-6.3 Eos-6.6 
Baso-0.7 Im ___ AbsNeut-3.33 AbsLymp-1.33 AbsMono-0.34 
AbsEos-0.36 AbsBaso-0.04
___ 09:30AM BLOOD Plt ___
___ 09:53AM BLOOD Glucose-110* UreaN-12 Creat-1.3* Na-138 
K-3.9 Cl-104 HCO3-21* AnGap-13
___ 06:55AM BLOOD ALT-8 AST-15 LD(LDH)-139 AlkPhos-122* 
TotBili-1.3
___ 09:53AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0
___ 06:14AM BLOOD Triglyc-148 HDL-16* CHOL/HD-5.4 
LDLcalc-40
___ 06:32AM BLOOD TSH-8.0*
 
Brief Hospital Course:
Ms. ___ is a ___ with recent carotid endarterectomy, history 
of stroke, and recent admission with altered mental status 
likely secondary to opioid use, now admitted for altered mental 
status, status post generalized tonic clonic seizure most likely 
due to new ischemic and hemorrhagic strokes, now stable on 
Levetiracetam. Her hospital course was complicated by poor 
swallowing function, however ultimately the family and patient 
decided that she did not want a PEG tube for feeding, and the 
patient was taking food and medication orally on discharge with 
supervision.

====================
ACUTE/ACTIVE ISSUES:
====================

# Altered mental status 
# Generalized tonic clonic seizure
# New ischemic and hemorrhagic strokes
The patient had recently been admitted from ___ for AMS, 
thought likely secondary to opioid use, given patient had been 
receiving double her usual dose of oxycodone. Extensive work-up 
at that time was negative, except for elevated TSH of 21. 
Presented to ___ on ___, one day post discharge, with 
persistent altered mental status. Hypothyroidism with TSH up to 
21, with other workup unremarkable. New generalized tonic-clonic 
seizure 4 days after admission, neurology consulted, EEG showed 
right parietal epileptiform discharges, which improved after 
levetiracetam, and she has been maintained on 750 mg twice 
daily. She needed some IV Keppra given her poor PO intake 
(discussed below) but was ultimately able to take PO with no 
further seizure activity. MRI of the brain also showed new 
subacute watershed infarcts, hemorrhage in the right basal 
ganglia, new since ___ but of indeterminate age, and 
thought to be the cause of her seizures and subsequent AMS. Her 
blood pressure was maintainted with a goal systolid ___ per 
neurology. Patient now maintained on aspirin and Plavix, with 
her neurological examination remaining stable.  

# Aspiration risk
# Goals of care
Patient has persistent dysarthria and dysphasia secondary to her 
CVA history, which has worsened with this admission following 
her seizure (likely secondary to her subacute stroke, per 
neurology team). Has been evaluated by Speech and Swallow team, 
but has refused further studies multiple times. Patient had a 
MOLST stating that she does not want feeding tube, but HCP 
(sister) originally wanted to place PEG. Multiple goals of care 
discussions with family and patient, consulted Ethics, resulting 
in patient, HCP, and family in agreement with no feeding tube. 
Despite high aspiration risk, patient has consistently refused 
thickened liquids or crushed medications. In agreement with HCP, 
family, and patient, she is now being supervised with thin 
liquids and whole pills. Has been able to tolerate pills, with 
occasional coughing when drinking thin liquids, but will 
continue with this diet regimen upon discharge due to 
patient/HCP wishes and understanding of high aspiration risk. Of 
note, code status was reaffirmed as full code by both patient 
and HCP. Full code, OK for intubation, OK for tracheostomy as 
well if unable to be weaned from the ventilator.

# Acute kidney injury with chronic kidney disease 
Baseline creatinine reported as 1.4 but may actually be 1.1 per 
review of CHA records. Presented with Cr 1.7, which has 
persisted despite albumin trials. Felt likely pre-renal in 
etiology given poor PO intake per patient and patient's sister, 
but given absence of improvement with 3 days of albumin 
administration, could reflect new baseline kidney function with 
progression of CKD. Home lisinopril was held in the context of 
worsening kidney function and all medications were renally 
dosed. Cr has now remained stable at ~1.3 

# Macrocytic anemia
Hgb on admission 10.0, has now stabilized at 7.6, most likely 
representing losses from persistent bleeding at right upper 
extremity from superficial laceration following patient 
withdrawal of RUE from subcutaneous heparin injection. Hemolytic 
workup was negative. Macrocytic anemia, with folate replenished 
and B12 within normal limits, etiology likely related to 
cirrhosis or hypothyroidism, worsened in the setting of poor PO 
intake. 

# Right upper extremity laceration
Pt sustained superficial laceration on ___ on external aspect 
of right upper extremity following her withdrawal from the nurse 
while nurse was administering subcutaneous heparin injection. 
Laceration required apposition of skin edges with derma-bond but 
bleeding has resolved with pressure dressing. Moderate bruising 
remained without large hematoma formation. 

# Hypertension
Lisionpril 2.5mg held in the setting of ___. Given previous CVA 
history, neurology team recommended SBP goal of 120-160, 
prioritizing avoiding hypotension with patient. Was eventually 
titrated to carvedilol 12.5 BID upon discharge.

# Right lower lobe opacity
Patient is high aspiration risk (see above) and was noted to 
have rhoncerous breath sounds, with CXR revealing RLL opacity. 
Patient was empirically started on cefepime for 1 day (___), 
but soon discontinued because patient had no systemic signs of 
infection (fever, leukocytosis, etc), with opacity likely 
representing atelectasis instead of pneumonia. Patient did not 
have O2 requirement during admission (except at night due to 
likely OSA secondary to stroke), with no shortness of breath 
through admission.

======================
CHRONIC/STABLE ISSUES:
======================

# Right carotid stenosis status post CEA
Patient continued her home aspirin, clopidogrel, and 
atorvastatin. These were discontinued for the period while 
patient was NPO (Aspirin given PR), but patient will now resume 
all 3 medications by mouth upon discharge.

# Hyperlipidemia
Atorvastatin was held as she was NPO, but continued after able 
to take pills by mouth. 

# Paroxysmal atrial fibrillation (CHADS2 = 4)
She is scheduled for outpatient follow-up with ___ Cardiology to 
discuss a previous instance of pAF while inpatient at ___ 
___. She was maintained on telemetry while inpatient during 
which time she had occasional runs of atrial tachycardia, though 
she never displayed any atrial fibrillation. Unclear whether 
this even captured at CHA may have been A tach rather than A 
fib. Given this discrepancy, the patient was not discharged on 
anticoagulation. Moreover, the patient's strokes were thought to 
be watershed territory rather than thromboembolic.

====================
TRANSITIONAL ISSUES:
====================

[] FYI re:goals of care discussion, patient is high aspiration 
risk but is refusing feeding tube. Discharged on regular diet 
with supervision. Occasional coughing with this liquids.
[] Per neurology team, systolic BP goal 160-120, with 
prioritizing avoidance of hypotension. Carvedilol chosen due to 
need for BP control hospitalization. Discharged on Carvedilol 
12.5mg PO BID, continue to uptitrate as needed for BP goal SBP 
120-160
[] Hypothryoidism: Pt's TSH was 21 upon admission; now on 
levothyroxine 150mg BID, re-check TSH in six weeks
[] ___: Patient's Cr 1.7 on admission, now 1.4 despite IVF and 
albumin. ___ represent new baseline, please draw BMP at first 
visit.
[] Reported history of paroxysmal AFib: Monitored on telemetry 
while inpatient with occasional short bursts of atrial 
tachydardia, though no atrial fibrillation. Given this, 
anticoagulation was not started while inpatient.

 MEDICATION CHANGES:
 [] discontinued lisinopril due to your renal function
 [] started levothyroxine 150mcg by mouth daily 
 [] started aspirin 81mg daily
 [] started levitracetam 750mg twice a day
 [] started carvedilol 12.5mg twice a day
 [] discontinued pantoprazole to reduce the number of pills you 
have to take

 =================================================
 # CODE STATUS: FC (confirmed)
 # CONTACT: ___ (Sister) ___
 
Medications on Admission:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Atorvastatin 80 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Enoxaparin Sodium 40 mg SC Q24H 
5. Levothyroxine Sodium 150 mcg PO DAILY 
6. Lisinopril 2.5 mg PO DAILY 
7. Nicotine Patch 14 mg TD DAILY 
8. Pantoprazole 20 mg PO Q24H 
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
10. TraZODone 50 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Carvedilol 12.5 mg PO BID  
3.  LevETIRAcetam 750 mg PO Q12H  
4.  Atorvastatin 80 mg PO DAILY  
5.  Clopidogrel 75 mg PO DAILY  
6.  Levothyroxine Sodium 150 mcg PO DAILY  
7.  Nicotine Patch 14 mg TD DAILY  
8.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
==================
PRIMARY DIAGNOSES:
==================
Intracranial hemorrhage and ischemia
Generalized tonic-clonic seizure
Toxic metabolic encephalopathy
Stage III Chronic Kidney Disease
Hypothyroidism

====================
SECONDARY DIAGNOSES:
====================
Alcoholic Cirrhosis
Diabetes Mellitus
Hypertension
Hyperlipidemia
Left side hemiparesis

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Ms. ___,

WHY YOU CAME TO THE HOSPITAL
You were admitted to ___ with confusion and altered mental 
status. While in the hospital, you experienced a seizure which 
was due to your new strokes.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL
 - Our doctors saw ___ for your symptoms
 - You were started on levothyroxine to treat your 
hypothyroidism
 - You underwent an electroencephalogram study to help diagnose 
the cause of your new seizure.
 - You underwent MRI exams to help diagnose the cause of your 
new seizure, which showed that you had two new strokes.
 - You underwent imaging of your liver and gallbladder, which 
showed that you had gallstones.
 - Our neurology doctors ___, and started you on a 
medication to prevent further seizures
 - We started you on a new medication to help treat your high 
blood pressure

WHAT YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL
 - You need to follow-up with your primary care physician as 
arranged
 - It is important you continue to take your medications as 
prescribed.

It was a pleasure taking care of you!

Your ___ Healthcare Team

MEDICATION CHANGES:
 [] discontinued lisinopril due to your renal function
 [] started levothyroxine 150mcg by mouth daily 
 [] started aspirin 81mg daily
 [] started levitracetam 750mg twice a day
 [] started carvedilol 12.5mg twice a day
 [] discontinued pantoprazole to reduce the number of pills you 
have to take
 
Followup Instructions:
___